US06143743
Part A. A mixture of 4-chloro-3-nitro-2-pyridone (2.0 g, 11.4 mmol), 1-cyclopropylpropyl amine hydrochloride (1.5 g, 11.4 mmol) and N,N-diisopropylethylamine (4.8 ml, 27.4 mmol) in CH3CN (50 ml) were stirred at 25° C. for 16 h and at reflux for 4 h. After cooling it was stripped in vacuo, and the residue was partitioned between EtOAc (100 mL) and H2O (50 mL). The insolubles were separated, washed with H2O and EtOAc and vacuum dried 1.51 g. The filtrate layers were separated and the aqueous layer was extracted with EtOAc (2×50 mL). The Combined extracts were washed with brine, dried over MgSO4, filtered and concd. in vacuo. The residue was washed with EtOAc (2×) and vacuum dried, to give 0.69 g, yellow solid. Combined wt. of 4-(1-cyclopropylpropyl)amino-3-nitro-2-pyridone 2.20 g, 81% yield. 1H NMR(300 MHz, dmso d6): 11.19 (1H, br), 8.94 (1H, d J=8.8 Hz), 7.33 (1H, t J=6.9 Hz), 6.03 (1H, d J=7.7 Hz), 3.18-3.24 (1H, m), 1.60-1.74 (2H, m), 1.03-1.11(1H, m), 0.91 (3H, t), 0.40-0.60 (1H, m), 0.20-0.39 (1H, m).

reactant | 4-chloro-3-nitro-2-pyridone | 11.4 mmol, 2.0 g | ClC1=C(C(NC=C1)=O)[N+](=O)[O-] | C5H3ClN2O3
reactant | 1-cyclopropylpropyl amine hydrochloride | 11.4 mmol, 1.5 g | Cl.C1(CC1)C(CC)N
reactant | N,N-diisopropylethylamine | 27.4 mmol, 4.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 4-(1-cyclopropylpropyl)amino-3-nitro-2-pyridone | 2.20 g, 81% yield | C1(CC1)C(CC)NC1=C(C(NC=C1)=O)[N+](=O)[O-] | C11H15N3O3
